US05091558
1,2,4-Triacetoxynaphthalene (75.5 g) was added to a clear solution of sodium methoxide (from 26.6 g Na) in methanol (625 mL). After 1 hour, the resulting red paste was collected by filtration, then dissolved in water and acidified with concentrated hydrochloric acid. The yellow precipitate was collected, recrystallized from acetic acid to give 2-hydroxy-1,4-naphthoquinone, m.p. 195° C.

reactant | 1,2,4-Triacetoxynaphthalene | 75.5 g | C(C)(=O)OC1=C(C=C(C2=CC=CC=C12)OC(C)=O)OC(C)=O | C16H14O6
reactant | sodium methoxide | 26.6 g | C[O-].[Na+]
solvent | methanol | 625 mL | CO | CH4O
product | 2-hydroxy-1,4-naphthoquinone | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
